US07060697B2
In a round bottom flask equipped with Dean-Stark apparatus, a mixture of 4-methylthio benzaldehyde (5 g, 32.8 mmol), propanediol (2.75 g, 36.1 mmol), and toluenesulfonic acid (550 mg, 3.28 mmol) in toluene (300 mL, anhydrous) is heated at reflux under N2. After 5 h, the reaction mixture is cooled to room temperature, and washed with saturated aqueous NaHCO3 (3×40 mL). The organic phase is concentrated and the obtained crude product is purified by silica gel column chromatography (15% EtOAc in hexanes) to give 2-(4-methylsulfanyl-phenyl)-[1,3]dioxane as a yellow oil.

reactant | 4-methylthio benzaldehyde | 32.8 mmol, 5 g | CC1=CC=C(C=S)C=C1 | C8H8S
reactant | propanediol | 36.1 mmol, 2.75 g | C(CC)(O)O | C3H8O2
reactant | toluenesulfonic acid | 3.28 mmol, 550 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-methylsulfanyl-phenyl)-[1,3]dioxane | CSC1=CC=C(C=C1)C1OCCCO1 | C11H14O2S
